US04332829
Preparation of Methylthiomethyl Heptanoate
This product was prepared according to the procedure described in Example 1, by reacting heptanoic acid with chloromethyl methyl sulfide in the presence of one equivalent of triethylamine; b.p. 80°-81° C./2 mm Hg, nD20 1.4591.

reactant | heptanoic acid | C(CCCCCC)(=O)O | C7H14O2
reactant | chloromethyl methyl sulfide | CSCCl | C2H5ClS
reactant | triethylamine | one equivalent | C(C)N(CC)CC | C6H15N
product | Methylthiomethyl Heptanoate | C(CCCCCC)(=O)OCSC | C9H18O2S
